US07919504B2
tert-Butyl (S)-2-amino-3-(4-(trifluoromethyl)phenyl)propyl(5-(quinazolin-6-yl)-1,3,4-thiadiazol-2-yl)carbamate was obtained as a semi-pure yellow solid from tert-butyl 5-(quinazolin-6-yl)-1,3,4-thiadiazol-2-ylcarbamate using the procedure described previously. To a stirred mixture of tert-butyl (S)-2-amino-3-(4-(trifluoromethyl)phenyl)propyl(5-(quinazolin-6-yl)-1,3,4-thiadiazol-2-yl)carbamate (17 mg, 32 μmol) in DCM (2.0 mL) was added TFA (2.0 mL). The overall mixture was stirred at room temperature for 1 hour. The reaction mixture was concentrated and the residue taken up in DCM. The mixture was washed with aqueous NaHCO3 (5 mL) and water (5 mL). The separated aqueous layer was extracted with DCM (2×5 mL). The combined organic layers were washed with brine, dried over Na2SO4, and concentrated. The residue was purified by flash column chromatography (eluting with a gradient of DCM to 10% MeOH in DCM) to provide N—((S)-2-amino-3-(4-(trifluoromethyl)phenyl)propyl)-5-(quinazolin-6-yl)-1,3,4-thiadiazol-2-amine as a white solid (1.0 mg, 7% yield). LCMS (M+H) 431.1 calc. for C20H18F3N6S 431.1. 1H NMR (400 MHz, CDCl3): δ ppm 9.43 (d, J=2.74 Hz, 1H) 9.35 (d, J=3.13 Hz, 1H) 8.46 (d, J=8.22 Hz, 1H) 8.19 (s, 1H) 8.09 (d, J=5.87 Hz, 1H) 7.60 (d, J=5.87 Hz, 1H) 7.36 (d, J=6.65 Hz, 2H) 3.66 (d, J=13.89 Hz, 1H) 3.40-3.51 (m, 1H) 2.07 (s, 1H) 1.38-1.79 (m, 2H) 1.26 (s, 2H). 2H obscured.

reactant | tert-butyl (S)-2-amino-3-(4-(trifluoromethyl)phenyl)propyl(5-(quinazolin-6-yl)-1,3,4-thiadiazol-2-yl)carbamate | 32 μmol, 17 mg | N[C@H](CN(C(OC(C)(C)C)=O)C=1SC(=NN1)C=1C=C2C=NC=NC2=CC1)CC1=CC=C(C=C1)C(F)(F)F | C25H25F3N6O2S
reactant | TFA | 2.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 2.0 mL | C(Cl)Cl | CH2Cl2
product | N—((S)-2-amino-3-(4-(trifluoromethyl)phenyl)propyl)-5-(quinazolin-6-yl)-1,3,4-thiadiazol-2-amine | 1.0 mg, 7% yield | N[C@H](CNC=1SC(=NN1)C=1C=C2C=NC=NC2=CC1)CC1=CC=C(C=C1)C(F)(F)F | C20H17F3N6S
